US07547699B2
Step 1 (4R,9aR)-7-Bromo-6-mercaptomethyl-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester
To a suspension of 0.90 g (4R,9aR)-7-bromo-6-bromomethyl-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester in 10 ml ethanol was added at room temperature 0.2 g thiourea and the mixture was stirred at ambient temperature for 5 h. To the resulting clear solution was added 1 ml of 2N aqueous sodium hydroxide and the mixture was heated to reflux for 3 h. The reaction mixture was cooled to room temperature and partitioned between water and ethyl acetate. The phases were separated and the organic phase was purified by chromatography on silica gel with heptane:ethyl acetate=9:1 to yield 0.51 g of the title compound as crystalline solid (MS: 414.1 and 416.2 (M+H+)).

reactant | (4R,9aR)-7-bromo-6-bromomethyl-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | 0.90 g | C(C)(C)(C)OC(=O)N1C[C@H]2CC3=CC(=C(N=C3N2[C@@H](C1)C)CBr)Br | C17H23Br2N3O2
reactant | thiourea | 0.2 g | NC(=S)N | CH4N2S
reactant | sodium hydroxide | 2N, 1 ml | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | (4R,9aR)-7-Bromo-6-mercaptomethyl-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | 0.51 g | C(C)(C)(C)OC(=O)N1C[C@H]2CC3=CC(=C(N=C3N2[C@@H](C1)C)CS)Br | C17H24BrN3O2S
